US08735586B2
2,7-Dimethyl-1-phenyl-1H-benzimidazole
A reaction tube containing 2-Bromo-3-nitrotoluene (108 mg, 0.5 mmol), N-phenylacetamide (81 mg, 0.6 mmol) and trans-1,2-cyclohexanodiamine (6 μL, 0.05 mmol), potassium phosphate (212 mg, 1 mmol), copper(I) iodide (9.5 mg, 0.05 mmol) in dry toluene (3 mL) was purged with dry argon for 3 min. Then the mixture was heated at 100° C. for 18 h. After cooling, the reaction was hydrolyzed with 3 mL of water and filtered through a Varian cartridge Chem Elut 12198007, rinsing with ethyl acetate. The crude mixture was dissolved in 10 mL of glacial acetic acid and refluxed for 30 min in the presence of iron powder (279 mg, 5 mmol). The acid was removed under reduced pressure and the residue was suspended in saturated sodium bicarbonate solution and extracted with ethyl acetate. The obtained crude was purified by preparative HPLC, affording the title compound as a pale yellow solid (46 mg, 41%). mp 107-109° C. NMR (DMSO) δ 1.83 (s, 3 H), 2.34 (s, 3 H), 7.02 (d, J=7.8 Hz, 1 H), 7.22 (t, J=7.8 Hz, 1 H), 7.53 (d, J=7.8 Hz, 1 H), 7.55-7.63 (m, 5 H); 13C NMR δ 13.3, 17.1, 114.8, 121.7, 123.0, 125.5, 128.6, 129.4, 129.9, 136.0, 144.5, 151.2, 157.2. HRMS (FAB): cal. for C15H15N2 [M+H+]: 223.1235; found: 223.1231.

reactant | 2-Bromo-3-nitrotoluene | 0.5 mmol, 108 mg | BrC1=C(C=CC=C1[N+](=O)[O-])C | C7H6BrNO2
reactant | N-phenylacetamide | 0.6 mmol, 81 mg | C1(=CC=CC=C1)NC(C)=O | C8H9NO
reactant | potassium phosphate | 1 mmol, 212 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) iodide | 0.05 mmol, 9.5 mg | [Cu]I
catalyst | iron | 5 mmol, 279 mg | [Fe] | Fe
product | 2,7-Dimethyl-1-phenyl-1H-benzimidazole | 46 mg, 41% | CC1=NC2=C(N1C1=CC=CC=C1)C(=CC=C2)C | C15H14N2
